US06689922B1
3-[3-(5-Hydroxy-1,5-dimethylhexyl)phenoxymethyl]-5-hydroxymethylphenol
In a manner similar to Example 1(j), by reacting 0.4 ml of concentrated sulphuric acid in 5 ml of methanol with 860 mg (1.8 mmol) of 6-[3-(3-ethoxymethoxy-5-ethoxymethoxymethylbenzyloxy)phenyl]-2-methylheptan-2-ol in 5 ml of methanol and 5 ml of THF, after purification on a silica column (ethyl acetate 60-heptane 40), a colourless oil (m=510 mg. Y=79%) is obtained.

reactant | sulphuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 6-[3-(3-ethoxymethoxy-5-ethoxymethoxymethylbenzyloxy)phenyl]-2-methylheptan-2-ol | 1.8 mmol, 860 mg | C(C)OCOC=1C=C(COC=2C=C(C=CC2)C(CCCC(C)(O)C)C)C=C(C1)COCOCC | C28H42O6
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[3-(5-Hydroxy-1,5-dimethylhexyl)phenoxymethyl]-5-hydroxymethylphenol | OC(CCCC(C)C=1C=C(OCC=2C=C(C=C(C2)CO)O)C=CC1)(C)C | C22H30O4
